US07592477B2
Step a) Formation of N-{1-methyl-1-[4-(trifluoromethyl)phenyl]ethyl}acetamide
To a cold (0° C.) solution H2SO4 (2.68 g, 27.3 mmol) in CH3CN (91 mL) was added dropwise a solution of 2-(4-(trifluoromethyl)-phenyl)-2-propanol (1.86 g, 9.1 mmol) in CH3CN (9.1 mL). The resulting reaction mixture was stirred at 0° C. for 1 h then at rt for 23 h. The solvent was evaporated under vacuo and H2O was added (20 mL). The mixture was extracted with Et2O (2×50 mL) and the combined organic layers were washed with H2O (2×20 mL), an aqueous solution of NaOH (1N) (2×20 mL), dried over MgSO4, filtered and evaporated to give the title compound as white solid (2.00 g, 90%). 1H NMR (CDCl3, 300 MHz) δ 7.69 (d, J=8.3 Hz, 2H), 7.59 (d, J=8.3 Hz, 2H), 2.10 (s, 3H), 1.79 (s, 6H). HPLC (Condition A), Rt: 3.18 min (HPLC purity: 97.2%).

reactant | H2SO4 | 27.3 mmol, 2.68 g | OS(=O)(=O)O | H2O4S
reactant | 2-(4-(trifluoromethyl)-phenyl)-2-propanol | 9.1 mmol, 1.86 g | FC(C1=CC=C(C=C1)C(C)(C)O)(F)F | C10H11F3O
reactant | CH3CN | 91 mL | CC#N | C2H3N
reactant | CH3CN | 9.1 mL | CC#N | C2H3N
product | N-{1-methyl-1-[4-(trifluoromethyl)phenyl]ethyl}acetamide | 2.00 g, 90% | CC(C)(C1=CC=C(C=C1)C(F)(F)F)NC(C)=O | C12H14F3NO
